US06359145B1
NaBH4 (491 mg) was added portionwise to an ice cooled solution of ethyl 2-(4-carbamoyl-1-imidazolyl)-4-phenylbutyrate (obtained in Preparation 2) (391 mg) in methanol (20 ml) under an nitrogen atmosphere. After the addition was completed, the reaction mixture was stirred at room temperature for 30 minutes. Water was added, and the resulting mixture was stirred for several minutes and then evaporated under reduced pressure. The residue was partitioned between chloroform and water. The organic layer was washed with brine and dried over sodium sulfate. Evaporation of the solvent under reduced pressure gave 1-(1-hydroxy-4-phenyl-2-butyl)imidazole-4-carboxamide (347 mg) as a white solid.

reactant | NaBH4 | 491 mg | [BH4-].[Na+]
reactant | ethyl 2-(4-carbamoyl-1-imidazolyl)-4-phenylbutyrate | 391 mg | C(N)(=O)C=1N=CN(C1)C(C(=O)OCC)CCC1=CC=CC=C1 | C16H19N3O3
reactant | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 1-(1-hydroxy-4-phenyl-2-butyl)imidazole-4-carboxamide | 347 mg | OCC(CCC1=CC=CC=C1)N1C=NC(=C1)C(=O)N | C14H17N3O2
